US04153607
20 parts of hydrogen sulfide are introduced, over 6 hours, into a mixture of 51.3 parts of 2-methylmercapto-4-amino-5-cyanothiazole, 0.2 part of triethylamine and 150 parts of dimethylformamide. The reaction mixture is left to stand for 48 hours and is then poured into 500 parts of ice water, and the product is filtered off. 33 parts of 2-methylmercapto-4-amino-5-thiocarbamoylthiazole (54% of theory) of melting point 192°-195° C. are obtained.

reactant | hydrogen sulfide | S | H2S
reactant | 2-methylmercapto-4-amino-5-cyanothiazole | CSC=1SC(=C(N1)N)C#N | C5H5N3S2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-methylmercapto-4-amino-5-thiocarbamoylthiazole | 54% | CSC=1SC(=C(N1)N)C(N)=S | C5H7N3S3
